US07011838B2
Using 0.22 g of (4-(trifluoromethyl)benzyl)malononitrile, 3 ml of N,N-dimethylformamide, 0.05 g of sodium hydride (60% in oil), and 0.34 g of 1-bromo-4-chlorobutane, and according to the process described in the Production Example 1, there was obtained 0.20 g of 2-(4-chlorobutyl)-2-(4-(trifluoromethyl)benzyl)malononitrile (the present compound (87)).

reactant | (4-(trifluoromethyl)benzyl)malononitrile | 0.22 g | FC(C1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | 1-bromo-4-chlorobutane | 0.34 g | BrCCCCCl | C4H8BrCl
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorobutyl)-2-(4-(trifluoromethyl)benzyl)malononitrile | 0.20 g, Yield: 32% | ClCCCCC(C#N)(C#N)CC1=CC=C(C=C1)C(F)(F)F | C15H14ClF3N2
